US07371757B2
5-[3-amino-8-[(6-chloroquinolin-4-yl)methyl]-6-(cyclopropylmethyl)-5-oxo-6,8-dihydro-5H-pyrazolo[4,3-e][1,2,4]triazolo[4,3-c]pyrimidin-9-yl]-1-methyl-1H-pyrrole-3-carbonitrile
To a solution of 5-[2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-4-hydrazino-6-oxo-6,7-dihydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-pyrrole-3-carbonitrile (0.13 g) in dioxane (3 mL) was added cyanogen bromide (0.15 mL). The reaction was heated by microwave at 100° C. for 5 min. The mixture was concentrated and purified by HPLC yielding 27 mg of yellow foam, 1H NMR (300 MHz, CHLOROFORM-D) d ppm 0.56 (m, 4 H) 1.44 (m, 1H) 3.7 (s, 3H) 3.94 (m, 2H) 5.84 (m, 2H) 6.54 (d, 1H) 6.86 (m, 1H) 7.71 (m, 2H) 7.87 (m, 1H) 8.12 (m, 1H) 8.85 (m, 1H); ES M+H+=525.

reactant | 5-[2-[(6-chloroquinolin-4-yl)methyl]-7-(cyclopropylmethyl)-4-hydrazino-6-oxo-6,7-dihydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl]-1-methyl-1H-pyrrole-3-carbonitrile | 0.13 g | ClC=1C=C2C(=CC=NC2=CC1)CN1N=C2N(C(N=C(C2=C1C1=CC(=CN1C)C#N)NN)=O)CC1CC1 | C25H22ClN9O
reactant | cyanogen bromide | 0.15 mL | N#CBr | CBrN
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 5-[3-amino-8-[(6-chloroquinolin-4-yl)methyl]-6-(cyclopropylmethyl)-5-oxo-6,8-dihydro-5H-pyrazolo[4,3-e][1,2,4]triazolo[4,3-c]pyrimidin-9-yl]-1-methyl-1H-pyrrole-3-carbonitrile | 27 mg | NC1=NN=C2N1C(N(C=1C2=C(N(N1)CC1=CC=NC2=CC=C(C=C12)Cl)C1=CC(=CN1C)C#N)CC1CC1)=O | C26H21ClN10O
